US05541180
A mixture of 12.5 g of 3,4-dihydro-N-(phenylmethyl)-2H-1-benzopyran-2-methanamine, 9 g of 4-bromobutanenitrile, 200 ml of N,N-dimethylformamide and 10 ml of N,N-diethylethanamine was stirred for 72 hour at room temperature. The reaction mixture was evaporated and the residue was partitioned between 1,1'-oxybisethane and water. The organic layer was separated, dried, filtered and evaporated, yielding 11 g (68.7% ) of (±)-4-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl](phenylmethyl)amino]butanenitrile (interm. 53).

reactant | 3,4-dihydro-N-(phenylmethyl)-2H-1-benzopyran-2-methanamine | 12.5 g | C1(=CC=CC=C1)CNCC1OC2=C(CC1)C=CC=C2 | C17H19NO
reactant | 4-bromobutanenitrile | 9 g | BrCCCC#N | C4H6BrN
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-diethylethanamine | 10 ml | C(C)N(CC)CC | C6H15N
product | (±)-4-[[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl](phenylmethyl)amino]butanenitrile | 11 g, 68.7% | O1C(CCC2=C1C=CC=C2)CN(CCCC#N)CC2=CC=CC=C2 | C21H24N2O
